US06803457B1
Lithium aluminum hydride (95 mg, 2.49 mmol) was added to a solution of 2-benzyloxy-5-ethynyl-benzoic acid benzyl ester (680 mg, 1.99 mmol) in THF (5 mL) at 0° C. After 15 minutes, the reaction was quenched by the sequential addition of water (100 μL), 15% NaOH (100 μL), and water (300 μL). The mixture was diluted with ethyl acetate (10 mL) and dried (MgSO4), filtered, and concentrated. The residue was purified by flash chromatography (10% ethyl acetate/hexanes) to afford 600 mg of a ˜1:1 mixture of 2-benzyloxy-5-ethynyl-benzyl alcohol and 2-benzyloxy-5-ethenyl-benzyl alcohol. This mixture was dissolved in toluene (8 mL) and treated with DBU (0.7 mL, 4.52 mmol) and diphenyl phosphoryl azide (1.1 mL, 5.12 mmol) at room temperature. After 18 hours, water was added and the mixture was extracted with ethyl acetate (3×). The combined organic layers were washed with 1N HCl (1×), brine (1×), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography (3.5% THF/hexanes) and the mixed fractions were rechromatographed with 3% ether/pet ether to afford 206 mg of 2-benzyloxy-5-ethenyl-benzyl azide as the faster eluting fraction. MS 238 (M−N2)+. 1H NMR (400 MHz, CDCl3) δ 7.4 (m, 7H); 6.95 (d, 1H, J=9.1 Hz); 6.62 (dd, 1H, J=17.5, 10.5 Hz); 5.61 (d, 1H, J=17.5 Hz); 5.15 (m, 3H); 4.40 (s, 2H).

reactant | Lithium aluminum hydride | 2.49 mmol, 95 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-benzyloxy-5-ethynyl-benzoic acid benzyl ester | 1.99 mmol, 680 mg | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)C#C)OCC1=CC=CC=C1)=O | C23H18O3
reactant | 2-benzyloxy-5-ethynyl-benzyl alcohol | C(C1=CC=CC=C1)OC1=C(CO)C=C(C=C1)C#C | C16H14O2
reactant | 2-benzyloxy-5-ethenyl-benzyl alcohol | C(C1=CC=CC=C1)OC1=C(CO)C=C(C=C1)C=C | C16H16O2
reactant | DBU | 4.52 mmol, 0.7 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | diphenyl phosphoryl azide | 5.12 mmol, 1.1 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-benzyloxy-5-ethenyl-benzyl azide | 206 mg | C(C1=CC=CC=C1)OC1=C(CN=[N+]=[N-])C=C(C=C1)C=C | C16H15N3O
